US06747024B1
1.1) (2R)-6-hydroxy-2,5,7,8-tetramethyl-N-[(3S)-2-oxotetrahydro-3-furanyl]-3,4-dihydro-2H-chromene-2-carboxamide
A solution of 1.82 g (7.27 mmoles) of (R)-Trolox and 1.18 g (7.27 mmoles) of 1,1′-carbonyldiimidazole (CDI) in 15 ml of anhydrous THF is stirred for 1 hour at 23° C., before adding a solution of 1 g (7.27 mmoles) of (S)-2-amino4-butyrolactone hydrochloride and 1.27 ml (7.27 mmoles) of N,N-diisopropylethylamine (DIEA) in 15 ml of anhydrous DMF. The reaction mixture is stirred for 15 hours at 23° C. and finally concentrated to dryness under vacuum. The residue is dissolved in 100 ml of AcOEt and the organic solution is washed successively with 50 ml of 1N aqueous HCl, 50 ml of H2O, 50 ml of a saturated aqueous solution of NaHCO3, 50 ml of H2O and finally 50 ml of salt water. After drying over MgSO4, the organic solution is filtered and concentrated to dryness under vacuum. The residue is taken up in 50 ml of Et2O, followed by agitating and filtering. After rinsing with 2×25 ml of Et2O, the white powder, obtained is dried under vacuum. Melting point: 195-196° C.

reactant | (R)-Trolox | 7.27 mmoles, 1.82 g | CC=1C(=C2C(=C(C1O)C)CC[C@](O2)(C)C(=O)O)C | C14H18O4
reactant | 1,1′-carbonyldiimidazole | 7.27 mmoles, 1.18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-2-amino4-butyrolactone hydrochloride | 7.27 mmoles, 1 g | Cl.N[C@@H]1C(=O)OCC1
reactant | N,N-diisopropylethylamine | 7.27 mmoles, 1.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (2R)-6-hydroxy-2,5,7,8-tetramethyl-N-[(3S)-2-oxotetrahydro-3-furanyl]-3,4-dihydro-2H-chromene-2-carboxamide | OC=1C(=C2CC[C@@](OC2=C(C1C)C)(C(=O)N[C@@H]1C(OCC1)=O)C)C | C18H23NO5
